US05011851
A mixture of 2-methyl-4,5-diphenylimidazole (3.00 g, l3 mmol), ethyl vinyl ether (9.23 g, l2.30 mL, l30 mmol) and hydroquinone (0.l4 g, l.2 mmol) was heated at 180° C. in a sealed vessel for 17 hours. The excess ethyl vinyl ether was evaporated and the residue chromatographed on a column of silica gel using a mixture of diethyl ether and hexanes (3:2) as eluent. Elution gave 1-(1-ethoxyethyl)-2-methyl-4,5-diphenyl-1H-imidazole (2.68 g, 68%), mp 87°-89° C.

reactant | 2-methyl-4,5-diphenylimidazole | 3.00 g | CC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2
reactant | ethyl vinyl ether | 9.23 g | C(=C)OCC | C4H8O
reactant | hydroquinone | 2 mmol | C1(O)=CC=C(O)C=C1 | C6H6O2
product | 1-(1-ethoxyethyl)-2-methyl-4,5-diphenyl-1H-imidazole | 2.68 g, 68% | C(C)OC(C)N1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C | C20H22N2O
